US06291507B1
Benzyl 1-(3,4-dichlorobenzyl)-5-formyl-4-oxo-4,5,6,7-tetrahydroindole-2-carboxylate (Compound 15 in Table II)
To benzyl alcohol (1.29 g) in dry THF (20 mL) was added sodium hydride (0.48 g) and the reaction was allowed to stir until evolution of hydrogen ceased. Benzyl 1-(3,4-dichlorobenzyl)-4-oxo-4,5,6,7-tetrahydroindole-2-carboxylate (1.28 g) in THF was added, followed by benzyl formate (1.62 g), and the reaction was stirred for a further 2 hours. Upon completion, the reaction was poured into 2M HCl and extracted with ethyl acetate (2×100 mL). The organic layer was dried (MgSO4) and concentrated in vacuo. Residual benzyl alcohol was distilled from the oil under reduced pressure to afford an orange gum, which was purified by column chromatography using 20% Ethyl acetate: hexane as eluent to give the title compound as a pale white solid (1.15 g, 84%), NMR d(CDCl3) 2.60 (2H, t), 2.70 (2H, t), 5.20 (2H, s), 5.55 (2H, s), 6.75 (1H, dd), 7.10 (1H, s) 7.20-7.40 (8H, m); M/z (−) 456 (M+).

reactant | benzyl alcohol | 1.29 g | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 0.48 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | Benzyl 1-(3,4-dichlorobenzyl)-4-oxo-4,5,6,7-tetrahydroindole-2-carboxylate | 1.28 g | ClC=1C=C(CN2C(=CC=3C(CCCC23)=O)C(=O)OCC2=CC=CC=C2)C=CC1Cl | C23H19Cl2NO3
reactant | benzyl formate | 1.62 g | C(=O)OCC1=CC=CC=C1 | C8H8O2
reactant | HCl | 2M | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Benzyl 1-(3,4-dichlorobenzyl)-5-formyl-4-oxo-4,5,6,7-tetrahydroindole-2-carboxylate | 1.15 g, 84% | ClC=1C=C(CN2C(=CC=3C(C(CCC23)C=O)=O)C(=O)OCC2=CC=CC=C2)C=CC1Cl | C24H19Cl2NO4
